US06897322B2
428.4 g of ethyl 3-(4-chloro-2-fluorophenyl)-3-oxopropionate were initially charged in 1400 ml of ethanol. Over a period of 15 min, 92 g of hydrazine hydrate were added dropwise, the mixture was stirred at room temperature overnight, the precipitated solid was filtered off and the filtrate was concentrated to ⅓ of its original volume. The mixture was stirred for another two nights, the resulting solid was filtered off with suction and the filtrate was again concentrated to ⅓ of its original volume. This gave a total of 289.1 g (77.7%) of 3-(4-chloro-2-fluorophenyl)-5-hydroxy-1H-pyrazole as a colorless solid. M.p.: 194° C.

reactant | ethyl 3-(4-chloro-2-fluorophenyl)-3-oxopropionate | 428.4 g | ClC1=CC(=C(C=C1)C(CC(=O)OCC)=O)F | C11H10ClFO3
reactant | hydrazine hydrate | 92 g | O.NN
solvent | ethanol | 1400 ml | C(C)O | C2H6O
product | 3-(4-chloro-2-fluorophenyl)-5-hydroxy-1H-pyrazole | 289.1 g, 77.7% | ClC1=CC(=C(C=C1)C1=NNC(=C1)O)F | C9H6ClFN2O
